US07691860B2
3) Preparation of 2-(trans-4-tert-butylsulfonylaminocyclohexyl)-5-(trifluoromethyl)benzimidazole
Hydrochloride of 1-(3-dimethylaminopropyl)-3-ethylcarbodimide (87 mg) and 1-hydroxybenzotriazole (90 mg) were added to a DMF solution (4.0 mL) containing 4-tert-butylsulfonylaminocyclohexanecarboxylic acid (99 mg) as prepared by the above-described preparation method and 4-trifluoromethyl-1,2-phenylenediamine (66 mg), followed by stirring at room temperature for 16 hrs. The reaction solution was diluted with ethyl acetate, and the organic layer was washed with aqueous saturated sodium hydrogencarbonate and sodium chloride solutions, successively, dried over anhydrous sodium sulfate and then concentrated under reduced pressure to give a crude amide containing trans-N-(2-amino-5-trifluoromethylphenyl)-4-tertbutylsulfonylaminocyclohexanecarboxamide. The crude amide was admixed with phosphorus oxychloride (1.0 mL), and the mixture was heated under stirring at 100° C. for 2 hrs. The excess phosphorus oxychloride was distilled off under reduced pressure, and the residue was diluted with ethyl acetate. The organic layer was washed with aqueous saturated sodium hydrogencarbonate and sodium chloride solutions successively, dried over anhydrous sodium sulfate and concentrated under reduced pressure, and the residue was crystallized from isopropyl ether to give the title compound (48.2 mg).

reactant | Hydrochloride | Cl | ClH
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodimide | 87 mg | CN(CCCN=C=NCC)C | C8H17N3
reactant | 1-hydroxybenzotriazole | 90 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 4-tert-butylsulfonylaminocyclohexanecarboxylic acid | 99 mg | C(C)(C)(C)S(=O)(=O)NC1CCC(CC1)C(=O)O | C11H21NO4S
reactant | 4-trifluoromethyl-1,2-phenylenediamine | 66 mg | FC(C1=CC(=C(C=C1)N)N)(F)F | C7H7F3N2
reactant | trans-N-(2-amino-5-trifluoromethylphenyl)-4-tertbutylsulfonylaminocyclohexanecarboxamide | NC1=C(C=C(C=C1)C(F)(F)F)NC(=O)[C@@H]1CC[C@H](CC1)NS(=O)(=O)C(C)(C)C | C18H26F3N3O3S
reactant | phosphorus oxychloride | 1.0 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 4.0 mL | CN(C)C=O | C3H7NO
product | 2-(trans-4-tert-butylsulfonylaminocyclohexyl)-5-(trifluoromethyl)benzimidazole | 48.2 mg | C(C)(C)(C)S(=O)(=O)N[C@@H]1CC[C@H](CC1)C=1NC2=C(N1)C=CC(=C2)C(F)(F)F | C18H24F3N3O2S
